US05514680
E. 7-Chloro-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione
A mixture of 2,3-diamino-5-chlorobenzotrifluoride (180 mg, 0.86 mmol) and oxalic acid dihydrate (108 mg, 0.86 mmol, used as received) in 2N HCl (4 mL) was refluxed at 120°-5° C. for 3 h, then cooled to room temperature. The mixture was centrifuged and the liquid layer was removed. The yellow solid was washed by cold water (2×2 mL), collected by filtration, and dried at 60° C. for 2 h, affording 136 mg of crude title compound (53%) as a yellow powder. The crude title compound was dissolved in 1N NaOH (6 mL) and filtered. The filtrate was acidified to pH=6, affording 115 mg of title compound. Recrystallization from DMSO/H2O gave 95 mg of pure title compound (37%) as yellow microcrystals. Mp: 302°-4° C. (dec. from 295° C.). IR (KBr, cm-1) 3401, 3255, 1754, 1694, 1528. 1H NMR (DMSO-d6): δ7.374 (d, 1H, J=1.8 Hz); 7.474 (d, 1H, J=1.8 Hz); 11.347 (s, 1H); 12.215 (s, 1H). HRMS: calcd for C9H4ClF3N2O2 (M+) m/z: 263.9912; found: 263.9909.

reactant | 2,3-diamino-5-chlorobenzotrifluoride | 0.86 mmol, 180 mg | NC1=C(C=C(C=C1N)Cl)C(F)(F)F | C7H6ClF3N2
reactant | oxalic acid dihydrate | 0.86 mmol, 108 mg | O.O.C(C(=O)O)(=O)O
solvent | HCl | 2N, 4 mL | Cl | ClH
solvent | NaOH | 1N, 6 mL | [OH-].[Na+]
product | 7-Chloro-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 115 mg | ClC1=CC(=C2NC(C(NC2=C1)=O)=O)C(F)(F)F | C9H4ClF3N2O2
